US04965284
3,7-Bis(2-chloroacetamido)dibenzothiophene 5,5-dioxide
A slurry of 21.8 g of 3,7-diaminodibenzothiophene S,S-dioxide in 400 ml of acetone was cooled in an ice bath while 30.2 ml of chloroacetyl chloride was carefully added. The bath was removed and the mixture heated at 100° C. with stirring, then cooled and poured into ice water. The precipitate was collected, washed with water and dried giving 34.9 g of the desired product as a solid.

reactant | 3,7-diaminodibenzothiophene S,S-dioxide | 21.8 g | NC=1C=CC2=C(S(C3=C2C=CC(=C3)N)(=O)=O)C1 | C12H10N2O2S
reactant | chloroacetyl chloride | 30.2 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 3,7-Bis(2-chloroacetamido)dibenzothiophene 5,5-dioxide | 34.9 g | ClCC(=O)NC=1C=CC2=C(S(C3=C2C=CC(=C3)NC(CCl)=O)(=O)=O)C1 | C16H12Cl2N2O4S
